US06982348B2
3) 2-methyl-2-(3-methylphenyl)propanal
To a solution of oxalyl chloride (15.1 g, 119 mmol) in tetrahydrofuran (150 ml) was dropwise added a solution of dimethyl-sulfoxide (16.8 ml, 237 mmol) in tetrahydrofuran (50 ml) at −78° C., and the mixture was stirred for 5 min. A solution of 2-methyl-2-(3-methylphenyl)propan-1-ol (12.99 g, 79.09 mmol) in tetrahydrofuran (80 ml) was added at −78° C., and the mixture was stirred for 15 min. Triethylamine (66.1 ml, 475 mmol) was added thereto, and the mixture was warmed to room temperature. The reaction mixture was poured into water and extracted twice with ethyl acetate. The recovered organic layer was dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure. The obtained crude product was purified by silica gel column chromatography (hexane/ethyl acetate=15/1) to give the objective substance.

reactant | oxalyl chloride | 119 mmol, 15.1 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl-sulfoxide | 237 mmol, 16.8 ml | CS(=O)C | C2H6OS
reactant | 2-methyl-2-(3-methylphenyl)propan-1-ol | 79.09 mmol, 12.99 g | CC(CO)(C)C1=CC(=CC=C1)C | C11H16O
reactant | Triethylamine | 475 mmol, 66.1 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-methyl-2-(3-methylphenyl)propanal | CC(C=O)(C)C1=CC(=CC=C1)C | C11H14O
